US04487929
0.33 g of 2-(2-acetylthioethyl)-2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid was heated under reflux for 0.5 hour with 10 ml of 2M hydrochloric acid. After evaporation, the residue was dissolved in dichloromethane, the solution was dried over magnesium sulfate and then evaporated to give 0.27 g (94%) of 2-ethyl-hexahydro-2-(2-mercaptoethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid in the form of a colorless foam.

reactant | 2-(2-acetylthioethyl)-2-ethyl-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.33 g | C(C)(=O)SCCC1(C(N2N(CCCC2C(=O)O)C1=O)=O)CC | C14H20N2O5S
solvent | hydrochloric acid | 2M, 10 ml | Cl | ClH
product | 2-ethyl-hexahydro-2-(2-mercaptoethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.27 g, 94% | C(C)C1(C(N2N(CCCC2C(=O)O)C1=O)=O)CCS | C12H18N2O4S
